US07626021B2
{2-(3-Dimethylaminopyrrolidine-1-carbonyl)-4-[3-(2-trifluoromethoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-carbamic acid tert-butyl ester (220 mg, 0.3 mmol) was dissolved in 1 ml of 5% v/v of 70% perchlroric acid in glacial acetic acid containing 0.4 ml of mercaptoacetic acid and the resulting mixture stirred overnight at room temperature. The crude was filtered over a 0.45 μm PTFE syringe filter and directly purified by mass-triggered reverse phase HPLC to afford {2-amino-5[3-(2-trifluoromethoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-(3-dimethylamino-pyrrolidin-1-yl)-methanone. 1H NMR (500 MHz, DMSO-d6) δ 1.65 (m, 1H), 1.92-2.02 (m, 7H), 3.15-3.68 (m, 5H), 5.45 (s, 2H), 6.78 (d, 1H), 7.45 (m, 2H), 7.50-7.58 (m, 3H), 7.88, (d, 1H), 8.18 (s, 1H), 8.66 (s, 1H). MS: m/z 511.2 (M+H+).

reactant | {2-(3-Dimethylaminopyrrolidine-1-carbonyl)-4-[3-(2-trifluoromethoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-carbamic acid tert-butyl ester | 0.3 mmol, 220 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC(F)(F)F)COCC[Si](C)(C)C)C(=O)N2CC(CC2)N(C)C)=O | C37H47F3N6O5Si
solvent | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
solvent | mercaptoacetic acid | SCC(=O)O | C2H4O2S
product | {2-amino-5[3-(2-trifluoromethoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-(3-dimethylamino-pyrrolidin-1-yl)-methanone | NC1=C(C=C(C=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC(F)(F)F)C(=O)N2CC(CC2)N(C)C | C26H25F3N6O2
